US07361678B2
To a stirred solution of 1-fluoro-4-nitrobenzene (10 mmol) in DMF (20 mL) at rt, solid potassium carbonate (30 mmol) was added followed by addition of 2-hydroxydibenzofuran (10 mmol) to the reaction mixture and heating to 80° C. until the reaction was complete as indicated by TLC or HPLC. After cooling to rt, the reaction mixture was poured into H2O (100 mL), extracted with EtOAc (2×50 mL), washed with H2O (2×50 mL) and brine (50 mL), and dried over sodium sulfate. The solvent was removed in vacuuo to afford the desired 4-(dibenzofuran-2-yloxy)-1-nitrobenzene. The crude product was used for further transformation.

reactant | 1-fluoro-4-nitrobenzene | 10 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 30 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxydibenzofuran | 10 mmol | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(dibenzofuran-2-yloxy)-1-nitrobenzene | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OC3=CC=C(C=C3)[N+](=O)[O-] | C18H11NO4
